US06562828B1
4-Amino-1-(pyridin-4-yl)piperidine-4-carboxylic Acid Methyl Ester
To a solution of 1-(pyridin-4-yl)piperidin-4-one (1 g) in methanol solution were added ammonium acetate (880 mg), aqueous sodium cyanide solution (560 mg/5 ml), aqeuous ammonia (5 ml) and acetic acid (2 ml), and the mixture was tirred at room temperature for 12 hours. After completion of the reaction, the solvent was evaporated and aqueous ammonia (3 ml) was added and the mixture was extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated to give a residue. Hydrogen chloride was blown into a solution of the residue in 10% hydrogen chloride-methanol (25 ml) with ice-cooling and the solution was stood at room temperature for 12 hours. After completion of the reaction, the solvent was evaporated and to the obtained residue was added 2N-hydrochloric acid (25 ml). After stirring for 2 hr, the mixture was neutralized with sodium hydrogencarbonate and extracted with chloroform. The organic layer was washed successively with water and saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated and the residue was dried under reduced pressure to give the title compound (760 mg).

reactant | 1-(pyridin-4-yl)piperidin-4-one | 1 g | N1=CC=C(C=C1)N1CCC(CC1)=O | C10H12N2O
reactant | ammonium acetate | 880 mg | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanide | 5 ml, 560 mg | [C-]#N.[Na+]
reactant | ammonia | 5 ml | N | H3N
reactant | Hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
solvent | hydrogen chloride methanol | 25 ml | Cl.CO
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 4-Amino-1-(pyridin-4-yl)piperidine-4-carboxylic Acid Methyl Ester | 760 mg | COC(=O)C1(CCN(CC1)C1=CC=NC=C1)N | C12H17N3O2
